US06509499B1
2.9 g (12.4 mmol) of N-acetylsulphanilyl chloride are added portionwise to a mixture, maintained under a nitrogen atmosphere, of 2.0 g (8.19 mmol) of 3,5-dimethyl-4-[(nitromethyl)sulphonyl]aniline and 1.6 g (16.0 mmol) of calcium carbonate in 40 ml of anhydrous tetrahydrofuran. The reaction medium is stirred for 6 h at room temperature and is then refluxed for 2 h, after which it is poured into 200 ml of water. The mixture is extracted 3 times with methylene chloride. The combined organic extracts are washed with water, dried over sodium sulphate and concentrated to dryness under reduced pressure. The oily residue obtained is crystallized by trituration from a mixture of hexane and ethyl acetate. These crystals are washed with a mixture of methylene chloride and methanol at room temperature and then with a mixture of hexane and ethyl acetate at reflux, and finally with ethanol at room temperature, to give 0.26 g (7.2%) of N-[4-[3,5-dimethyl-4-[(nitromethyl)sulphonyl]phenylsulphamoyl]phenyl]acetamide.

reactant | N-acetylsulphanilyl chloride | 12.4 mmol, 2.9 g | C(C)(=O)NC1=CC=C(S(=O)(=O)Cl)C=C1 | C8H8ClNO3S
reactant | 3,5-dimethyl-4-[(nitromethyl)sulphonyl]aniline | 8.19 mmol, 2.0 g | CC=1C=C(N)C=C(C1S(=O)(=O)C[N+](=O)[O-])C | C9H12N2O4S
reactant | calcium carbonate | 16.0 mmol, 1.6 g | C([O-])([O-])=O.[Ca+2]
reactant | water | 200 ml | O | H2O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | N-[4-[3,5-dimethyl-4-[(nitromethyl)sulphonyl]phenylsulphamoyl]phenyl]acetamide | 0.26 g, 7.2% | CC=1C=C(C=C(C1S(=O)(=O)C[N+](=O)[O-])C)NS(=O)(=O)C1=CC=C(C=C1)NC(C)=O | C17H19N3O7S2
